US08871753B2
Step D: (14Z)-6-Chloro-2,4,8,17,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,14,16,18-decaene
To a mixture of N-{3-[(Z)-2-(4-aminopyridin-2-yl)vinyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride (34.6 mg, 0.08 mmol) and triethylamine (0.034 mL, 0.24 mmol) in dry 1,4-dioxane (0.70 mL) was added (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) (2.8 mg, 0.0048 mmol), palladium acetate (0.7 mg, 0.003 mmol) and cesium carbonate (52.3 mg, 0.16 mmol). The mixture was degassed by bubbling N2 through the solution. The sealed tube was then microwaved at 150° C. for 30 min. The reaction mixture was diluted with THF/MeOH, filtered and concentrated to give the residue, which was then triturated with MeOH/EtOAc/THF to provide the desired product as a light yellow powder (9 mg, 35%). LCMS for C17H13ClN5 (M+H)+: m/z=322.0. 1H NMR (300 MHz, DMSO-d6): δ 9.81 (s, 1H), 9.33 (s, 1H), 9.15 (s, 1H), 8.49 (s, 1H), 8.26 (m, 1H), 8.19 (s, 1H), 7.33 (m, 1H), 7.24 (m, 1H), 7.08 (d, J=5.7 Hz, 1H), 6.93 (dd, J=5.7, 2.1 Hz, 1H), 6.83 (m, 1H), 6.58 (d, J=13.5 Hz, 1H).

reactant | N-{3-[(Z)-2-(4-aminopyridin-2-yl)vinyl]phenyl}-2,5-dichloropyrimidin-4-amine dihydrochloride | 0.08 mmol, 34.6 mg | Cl.Cl.NC1=CC(=NC=C1)\C=C/C=1C=C(C=CC1)NC1=NC(=NC=C1Cl)Cl
reactant | triethylamine | 0.24 mmol, 0.034 mL | C(C)N(CC)CC | C6H15N
reactant | (9,9-dimethyl-9H-xanthene-4,5-diyl)bis(diphenylphosphine) | 0.0048 mmol, 2.8 mg | CC1(C2=CC=CC(=C2OC=2C(=CC=CC12)P(C1=CC=CC=C1)C1=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1)C | C39H32OP2
reactant | cesium carbonate | 0.16 mmol, 52.3 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | 1,4-dioxane | 0.70 mL | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.003 mmol, 0.7 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (14Z)-6-Chloro-2,4,8,17,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,14,16,18-decaene | 9 mg, 35% | ClC=1C=NC=2NC=3C=CN=C(\C=C/C4=CC=CC(NC1N2)=C4)C3 | C17H12ClN5
